US08536183B2
1,1-dimethylethyl (2S)-4-{[2-bromo-4-(trifluoromethyl)phenyl]sulfonyl}-2-methyl-1-piperazinecarboxylate
To a solution of 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (1.20 g, 5.99 mmol) and DIPEA (5.45 ml, 31.2 mmol) in dry DCM (60 ml) at 0° C. under Ar was added 2-bromo-4-(trifluoromethyl)benzenesulfonyl chloride (2.04 g, 6.29 mmol) and the resulting clear solution stirred at 0° C. for 2 h. EtOAc (100 ml) and saturated aqueous NaHCO3 (100 ml) were added, the layers separated, then the organic layers washed with 2M aqueous HCl (100 ml) and passed through an hydrophobic frit. The solvent was removed to leave the title compound (2.36 g).

reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 5.99 mmol, 1.20 g | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | DIPEA | 31.2 mmol, 5.45 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromo-4-(trifluoromethyl)benzenesulfonyl chloride | 6.29 mmol, 2.04 g | BrC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O2S
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 1,1-dimethylethyl (2S)-4-{[2-bromo-4-(trifluoromethyl)phenyl]sulfonyl}-2-methyl-1-piperazinecarboxylate | 2.36 g | BrC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C17H22BrF3N2O4S
